US06100218
3-Chloro-2-[4-chloro-2-fluoro-5-(methylthiomethoxy)phenyl]-5-trifluoromethylpyridine
0.1 g (4.4 mmol) of sodium hydride was added to a solution of 1.3 g (4 mmol) of 2-chloro-5-(3-chloro-5-trifluoromethylpyrid-2-yl)-4-fluorophenol in 50 ml of dimethylformamide. After the mixture has been stirred for 1 hour, it was treated with 0.5 g (5.2 mmol) of methylthiomethyl chloride. Then, the mixture was stirred for another hour. For working-up, the reaction mixture was treated with 50 ml of water. The product was then extracted with 100 ml of methyl tert-butyl ether. The organic phase was dried over magnesium sulfate and finally concentrated. Yield: 0.3 g.

reactant | sodium hydride | 4.4 mmol, 0.1 g | [H-].[Na+]
reactant | 2-chloro-5-(3-chloro-5-trifluoromethylpyrid-2-yl)-4-fluorophenol | 4 mmol, 1.3 g | ClC1=C(C=C(C(=C1)F)C1=NC=C(C=C1Cl)C(F)(F)F)O | C12H5Cl2F4NO
reactant | methylthiomethyl chloride | 5.2 mmol, 0.5 g | CSCCl | C2H5ClS
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-[4-chloro-2-fluoro-5-(methylthiomethoxy)phenyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=C(C=C(C(=C1)OCSC)Cl)F | C14H9Cl2F4NOS
